US07001897B2
To a solution of 3-hydroxy-1-[4-((1S)-2-hydroxy-1-methylethylcarbamoyl)-1,3-thiazol-2-yl]azetidine (910 mg, 3.54 mmol) (obtained as described in Reference Example 35(3)) in dimethylformamide (46 ml) were added t-butyldimethylsilyl chloride (586 mg, 3.89 mmol) and imidazole (265 mg, 3.89 mmol) in an ice bath, and the reaction mixture was stirred at room temperature for 6 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The obtained organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:1→1:4) as the eluant to afford 1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}-3-hydroxyazetidine (935 mg, yield 71%) as a pale yellow oil.

reactant | 3-hydroxy-1-[4-((1S)-2-hydroxy-1-methylethylcarbamoyl)-1,3-thiazol-2-yl]azetidine | 3.54 mmol, 910 mg | OC1CN(C1)C=1SC=C(N1)C(N[C@H](CO)C)=O | C10H15N3O3S
reactant | t-butyldimethylsilyl chloride | 3.89 mmol, 586 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 3.89 mmol, 265 mg | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 46 ml | CN(C=O)C | C3H7NO
product | 1-{4-[(1S)-2-(t-butyldimethylsilyloxy)-1-methylethylcarbamoyl]-1,3-thiazol-2-yl}-3-hydroxyazetidine | 935 mg, yield 71% | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC(=O)C=1N=C(SC1)N1CC(C1)O | C16H29N3O3SSi
